US07772234B2
Step I: Preparation of 7-(4-bromo-2-fluorophenylamino)-4-chloro-8-fluoro-cinnoline-6-carboxylic acid methyl ester:
A mixture of 7-(4-bromo-2-fluorophenylamino)-8-fluoro-4-hydroxy-cinnoline-6-carboxylic acid methyl ester (1.00 equiv.) and POCl3 (excess) is stirred for 1.5 hours at 80° C. After evaporation of POCl3 under reduced pressure, the crude material is poured into ice and neutralized to pH 7 to 8 with saturated aqueous NaHCO3. The aqueous layer is extracted with EtOAc. The organic layers is dried over MgSO4, filtered, and concentrated under reduced pressure to give the crude product that is purified by trituration or flash column chromatography to afford the desired product as necessary.

reactant | 7-(4-bromo-2-fluorophenylamino)-8-fluoro-4-hydroxy-cinnoline-6-carboxylic acid methyl ester | 1.00 equiv. | COC(=O)C=1C=C2C(=CN=NC2=C(C1NC1=C(C=C(C=C1)Br)F)F)O | C16H10BrF2N3O3
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
product | 7-(4-bromo-2-fluorophenylamino)-4-chloro-8-fluoro-cinnoline-6-carboxylic acid methyl ester | COC(=O)C=1C=C2C(=CN=NC2=C(C1NC1=C(C=C(C=C1)Br)F)F)Cl | C16H9BrClF2N3O2
